US06878722B2
Steps 7Ib-7Ic: Preparation of N-tert-Butyl-(1-benzyl)cyclopropyl-sulfonamide
Steps 7Ib-7Ic) This compound was obtained in 60% yield using the procedure described for the synthesis of N-tert-Butyl-(1-methyl)cyclopropylsulfonamide except 1.05 equivalents of benzyl bromide were used, followed by trituration with 10% EtOAc in hexane: 1H NMR (CDCl3) δ 0.92 (m, 2H), 1.36 (m, 2H), 1.43 (s, 9H), 3.25 (s, 2H), 4.62 (bs, 1H), 7.29-7.36 (m, 5H).

reactant | N-tert-Butyl-(1-methyl)cyclopropylsulfonamide | C(C)(C)(C)NS(=O)(=O)C1(CC1)C | C8H17NO2S
reactant | benzyl bromide | 1.05 equivalents | C(C1=CC=CC=C1)Br | C7H7Br
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | N-tert-Butyl-(1-benzyl)cyclopropyl-sulfonamide | 60% yield | C(C)(C)(C)NS(=O)(=O)C1(CC1)CC1=CC=CC=C1 | C14H21NO2S
